US06495565B2
A solution of ethyl crotonate (5.0 ml, 40 mmol) and benzyl amine (4.8 ml, 44 mmol) was heated to 100° C. for 18 hs. The reaction was allowed to cool and the product was distilled at 90° C. at 200 mtorr pressure to give the ethyl 3-(benzylamino)butanoate (6.1 g, 69%) as a clear oil, MS (M+H)+=222.

reactant | ethyl crotonate | 40 mmol, 5.0 ml | C(\C=C\C)(=O)OCC | C6H10O2
reactant | benzyl amine | 44 mmol, 4.8 ml | C(C1=CC=CC=C1)N | C7H9N
product | ethyl 3-(benzylamino)butanoate | 6.1 g, 69% | C(C1=CC=CC=C1)NC(CC(=O)OCC)C | C13H19NO2
